US05786353
N-[4-[(11.12-Dihydrodibenz[b,f]azocin-5-(6H)-yl)-carbonyl]phenyl]-2-methylbenzamide
To a mixture of 0.245 g (1 mmol) of 5,6,-12-tetrahydrodibenz[b,f]azocine hydrochloride and 30 μl (2.2 mmol) of triethylamine in 2 ml of dichloromethane is added a solution of 0.281 g (1.1 mmol) of 4-[(2-methylbenzoyl)amino]benzoyl chloride in 4 ml of dichloromethane. The mixture is stirred overnight at room temperature, washed with water 2N HCl (3×2 ml) and 1N sodium bicarbonate (3×2 ml). The organic layer is dried (MgSO4) and filtered through a thin pad of hydrous magnesium silicate (pad washed with 3 volumes of CH2Cl2). The filtrate is concentrated to give 200 mg of a foam; Mass Spec.-FAB 447 (M+H).

reactant | triethylamine | 2.2 mmol, 30 μl | C(C)N(CC)CC | C6H15N
reactant | 4-[(2-methylbenzoyl)amino]benzoyl chloride | 1.1 mmol, 0.281 g | CC1=C(C(=O)NC2=CC=C(C(=O)Cl)C=C2)C=CC=C1 | C15H12ClNO2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | N-[4-[(11.12-Dihydrodibenz[b,f]azocin-5-(6H)-yl)-carbonyl]phenyl]-2-methylbenzamide | 200 mg | C1=CC=CC=2N(CC3=C(CCC21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C=CC=C3)C)=O | C30H26N2O2
